US04237055
11-Benzyloxy-1-bromo-6,10-dimethyl-2-oxo-undec-5-ene (15.6 g, 41 mM) in methylene chloride (250 ml) is treated with 85% m-chloroperbenzoic acid (8.35 g, 41 mM) in methylene chloride (200 ml) at 0° C. for 3 hours. The reaction mixture is washed with brine, saturated sodium sulfite, brine and then dried (Na2SO4). The solvent is removed in vacuo to give crude 11-benzyloxy-1-bromo-6,10-dimethyl-5,6-epoxy-undecan-2-one (17.5 g).

reactant | 11-Benzyloxy-1-bromo-6,10-dimethyl-2-oxo-undec-5-ene | 41 mM, 15.6 g | C(C1=CC=CC=C1)OCC(CCCC(=CCCC(CBr)=O)C)C | C20H29BrO2
reactant | m-chloroperbenzoic acid | 41 mM, 8.35 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 11-benzyloxy-1-bromo-6,10-dimethyl-5,6-epoxy-undecan-2-one | 17.5 g | C(C1=CC=CC=C1)OCC(CCCC1(C(CCC(CBr)=O)O1)C)C | C20H29BrO3
